US09353130B2
(a) Preparation of 2-hexyl-1-octylzinc bromide
A mixture of zinc dust (1.91 g, 29.9 mmol) and lithium chloride (1.35 g, 31.8 mmol) was heated strongly under vacuum for about 10 minutes. After cooling to room temperature, the flask was filled with nitrogen and iodine (0.294 g, 1.16 mmol) added. The solid mixture was stirred for 5 minutes before the addition of dry THF (20 mL). The slurry was heated to 90° C. and then 2-hexyl-1-bromooctane added in a single portion (5.0 g, 18 mmol) with the progress of zinc insertion monitored by GC-MS of a quenched aliquot. After approximately 48 hours heating, zinc insertion was shown to be approximately 95% complete.

reactant | zinc | 29.9 mmol, 1.91 g | [Zn] | Zn
reactant | lithium chloride | 31.8 mmol, 1.35 g | [Cl-].[Li+]
reactant | iodine | 1.16 mmol, 0.294 g | II | I2
reactant | 2-hexyl-1-bromooctane | C(CCCCC)C(CBr)CCCCCC | C14H29Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-hexyl-1-octylzinc bromide | [Br-].C(CCCCC)C(C[Zn+])CCCCCC | InChI=1S/C14H29.BrH.Zn/c1-4-6-8-10-12-14(3)13-11-9-7-5-2;;/h14H,3-13H2,1-2H3;1H;/q;;+1/p-1
